US04314842
d. Formation of 3-[5-(1-methylthio-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-1-(2,2-dimethyoxyethyl)urea
At ambient temperatures, 4.2 grams (0.035 mole) of methylaminoacetaldehyde dimethylacetal was added to 50 milliliters of benzene containing 7.1 grams (0.033 equivalents) of the 5-[1-methylthio-1-methylethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer (prepared above). The resulting pink solution was heated to reflux, 100 milliliters of hexane was added, and the solution was cooled, filtered and topped on a roto-vac at 70° C. to yield 11.4 grams of a pale pink viscous oil of 3-[5-(1-methylthio-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-1-(2,2-dimethoxy-ethyl)urea.

reactant | methylaminoacetaldehyde dimethylacetal | 0.035 mole, 4.2 grams | COC(CNC)OC | C5H13NO2
reactant | benzene | 50 milliliters, 7.1 grams, 0.033 equivalents | C1=CC=CC=C1 | C6H6
reactant | 5-[1-methylthio-1-methylethyl]-1,3,4-thiadiazol-2-yl isocyanate | CSC(C)(C)C1=NN=C(S1)N=C=O | C7H9N3OS2
solvent | hexane | 100 milliliters | CCCCCC | C6H14
product | 3-[5-(1-methylthio-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-1-(2,2-dimethyoxyethyl)urea | 11.4 grams | CSC(C)(C)C1=NN=C(S1)NC(N(CC(OC)OC)C)=O | C12H22N4O3S2
